US05866592
N-4-Cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid benzyl ester (150 mg, 0.279 mmol) was dissolved in pyridine (10 ml). To the resulting solution was added triethylamine (1 ml) and the mixture was saturated with hydrogen sulfide gas. The reaction vessel was sealed and the reaction mixture was stirred at room temperature overnight. The pyridine was distilled off and the volatile products were removed by two cycles of toluene azeotropy. The residue was dissolved n acetone (15 ml) and methyl iodide (1 ml) was added thereto, followed by refluxing for 30 minutes. The solvent was distilled off and the residue was dissolved in methanol (10 ml). To the obtained solution was added ammonium acetate (100 mg) and the mixture was refluxed for 2 hours. After the solvent was distilled off, the residue was dissolved in chloroform, washed with a saturated aqueous solution of NaCl and dried over an hydrous sodium sulfate. The solvent was distilled off and the residue was applied to a silica gel column (1.5×14 cm) and eluted with a mixed solution (chloroform:methanol=5:1). The desired fractions were collected and the solvents were distilled off to yield an oil of N-4-amidinobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid benzyl ester (72 mg, 46.5%).

reactant | N-4-Cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid benzyl ester | 0.279 mmol, 150 mg | C(C1=CC=CC=C1)OC(CC1CCN(CC1)C(C(C(NC(C1=CC=C(C=C1)C#N)=O)C1=CC=CC=C1)(C)C)=O)=O | C33H35N3O4
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-4-amidinobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid benzyl ester | 72 mg, 46.5% | C(C1=CC=CC=C1)OC(CC1CCN(CC1)C(C(C(NC(C1=CC=C(C=C1)C(N)=N)=O)C1=CC=CC=C1)(C)C)=O)=O | C33H38N4O4
